US08912188B2
A solution of methyl 3-oxo-2-phenyl-3,4-dihydroquinoxaline-6-carboxylate (2.1 g, 7.50 mmol, 1.00 equiv) and POBr3 (21.5 g, 74.91 mmol, 10.00 equiv) in CH3CN (120 mL) in a 1000-mL round-bottom flask was heated under reflux overnight in an oil bath. The resulting mixture was concentrated under vacuum; the pH value was adjusted to 7-8 with aqueous sodium bicarbonate (saturated), and the solution extracted with 4×100 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum, giving 2 g (78%) of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate as a white solid. LC-MS (ES, m/z): 343 [M+H]+. 1H-NMR (300 MHz, DMSO-d6) 8.620-8.615 (d, J=1.5 Hz, 1H), 8.38-8.35 (q, J=3.3 Hz, 1H), 8.28-8.25 (d, J=8.7 Hz, 1H), 7.85-7.82 (q, J=6 Hz, 2H), 7.60-7.58 (t, J=2.4 Hz, 3H), 3.99 (s, 3H).

reactant | methyl 3-oxo-2-phenyl-3,4-dihydroquinoxaline-6-carboxylate | 7.50 mmol, 2.1 g, 1.00 equiv | O=C1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H12N2O3
reactant | POBr3 | 74.91 mmol, 21.5 g, 10.00 equiv | P(=O)(Br)(Br)Br | Br3OP
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 2 g, 78% | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
